US07981874B2
To a solution of 1-tert-butyl 4,4-diethyl piperidine-1,4,4-tricarboxylate (2.00 g, 6.07 mmol) in 1:1 THF:toluene (50 mL) was added LiBH4 (15.18 mL, 30.4 mmol, 2.0 M in THF). The reaction was stirred at 60° C. for 18 h. It was then quenched with saturated NH4Cl and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried (MgSO4), and evaporated. The residue was purified by flash chromatography (15-100% EtOAc/hexanes) to give tert-butyl 4,4-bis(hydroxymethyl)piperidine-1-carboxylate as a colorless solid. 1H NMR (CDCl3, 600 MHz) δ 3.66 (d, J=5.0 Hz, 4H), 3.41-3.37 (m, 4H), 2.29 (t, J=5.1 Hz, 2H), 1.47-1.45 (m, 4H), 1.45 (s, 9H). MS: cal'd 268 (MNa+), exp 268 (MNa+).

reactant | 1-tert-butyl 4,4-diethyl piperidine-1,4,4-tricarboxylate | 6.07 mmol, 2.00 g | N1(CCC(CC1)(C(=O)OCC)C(=O)OCC)C(=O)OC(C)(C)C | C16H27NO6
reactant | THF | C1CCOC1 | C4H8O
reactant | LiBH4 | 30.4 mmol, 2.0 M, 15.18 mL | [Li+].[BH4-]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4,4-bis(hydroxymethyl)piperidine-1-carboxylate | OCC1(CCN(CC1)C(=O)OC(C)(C)C)CO | C12H23NO4
